US04804400
Preparation of N-(2-fluoro-4-chloro-5-isopropoxycarbonylphenyl)-2,3-dimethylmaleic acid imide
6 g of N-(2-fluoro-5-chlorocarbonyl-4-chlorophenyl)-2,3-dimethylmaleic acid imide are added dropwise, while stirring at room temperature, to a mixture of 4 ml of isopropanol, 4 ml of triethylamine and 100 ml of toluene. After a reaction time of 6 hours, the triethylamine hydrochloride is separated off by filtration and the filtrate is concentrated by evaporation. By recrystallising the residue from ethanol/water, 4.2 g of N-(2-fluoro-4-chloro-5-isopropoxycarbonylphenyl)-2,3-dimethylmaleic acid imide having a melting point of 161°-162° are obtained.

reactant | N-(2-fluoro-5-chlorocarbonyl-4-chlorophenyl)-2,3-dimethylmaleic acid imide | 6 g | FC1=C(C=C(C(=C1)Cl)C(=O)Cl)N1C(C(=C(C1=O)C)C)=O | C13H8Cl2FNO3
reactant | isopropanol | 4 ml | C(C)(C)O | C3H8O
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-fluoro-4-chloro-5-isopropoxycarbonylphenyl)-2,3-dimethylmaleic acid imide | FC1=C(C=C(C(=C1)Cl)C(=O)OC(C)C)N1C(C(=C(C1=O)C)C)=O | C16H15ClFNO4
